US08114871B2
4-Fluoro-1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid ethyl ester
To a 250 mL RB were added compound B2(I) ethyl 4-fluoropiperidine-4-carboxylate, hydrochloride (1.25 g, 5.91 mmol, 1.0 eq), CH2Cl2 (20 mL), 4-oxotetrahydropyranone B2(II) (0.61 mL, 6.50 mmol, 1.10 eq), and glacial HOAc (0.340 mL, 5.91 mmol, 1.0 eq). After being stirred at rt for 5 to 10 min, sodium triacetoxyborohydride (2.02 g, 9.45 mmol, 1.60 eq) was added in one portion. A cloudy solution was obtained. After being stirred at rt for 12 h, the reaction mixture was diluted with 150 mL Et2O and 200 mL NaOH (1 M aqueous). The resulting suspension was stirred at rt for 1 h. The organic layer was collected, washed with 200 mL brine, dried over Na2SO4, filtered, and concentrated to afford 320 mg of the desired product, 4-fluoro-1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid ethyl ester B2(III) in 21% yield as a colorless oil. 1H NNR (400 MHz, CDCl3, ppm) δ 1.30 (t, J=7.08, 3H), 1.56-1.66 (m, 2H), 1.74-1.78 (m, 2H), 1.94-2.21 (m, 4H), 2.46-2.55 (m, 3H), 2.82-2.85 (m, 2H), 3.38 (ddd, J=1.52, 11.84, 11.84, 2H), 4.03 (dd, J=4.28, 11.08, 2H), 4.24 (q, J=7.05 Hz, 2H); 19F NMR (376 Hz, CDCl3, ppm) δ -166.94.

reactant | ethyl 4-fluoropiperidine-4-carboxylate, hydrochloride | 5.91 mmol, 1.25 g, 1.0 eq | Cl.FC1(CCNCC1)C(=O)OCC
reactant | 4-oxotetrahydropyranone | O=C1CC(OCC1)=O | C5H6O3
reactant | HOAc | 5.91 mmol, 0.340 mL, 1.0 eq | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 9.45 mmol, 2.02 g, 1.60 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | NaOH | 1 M, 200 mL | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid ethyl ester | 320 mg, 21% yield | C(C)OC(=O)C1(CCN(CC1)C1CCOCC1)F | C13H22FNO3
